US04424211
5-vinyluracil (1.1 g, 8 mmoles) was dissolved in dry dimethylformamide (40 ml). To this solution was added a solution of iodine monochloride (1.28 g, 8 mmoles) in dry dimethylformamide (20 ml). The reaction mixture was allowed to stand, with occasional shaking, for 30 minutes and then heated at 100° for 30 minutes. The solution was then evaporated under reduced pressure to a brown oil to which was added water (20 ml). The resulting dark brown suspension was filtered and the brown solid collected and dried giving crude E-5-(2-iodovinyl)uracil (1.6 g, 76% yield). For the next stage this was not purified further.

reactant | 5-vinyluracil | 8 mmoles, 1.1 g | C(=C)C=1C(NC(NC1)=O)=O | C6H6N2O2
reactant | iodine monochloride | 8 mmoles, 1.28 g | ICl | ClI
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | E-5-(2-iodovinyl)uracil | 1.6 g, 76% yield | I/C=C/C=1C(NC(NC1)=O)=O | C6H5IN2O2
